US09085583B2
To a solution of ethyl 2-methyl-2-(2-methyl-1H-indol-1-yl)propanoate (1.2 g, 4.9 mmol) in anhydrous tetrahydrofuran (10 mL) was added lithium aluminum hydride (1 g, 24.5 mmol) dissolved in anhydrous tetrahydrofuran (5 mL) dropwise between −10° C. and 0° C. After the addition, the mixture was stirred below 0° C. for 1 hour, and then allowed to stir for 3 hours at room temperature. The reaction mixture was cooled down to 0° C., quenched by 10 mL water, and then 10 mL 4N sodium hydroxide. The resulting white precipitate was filtered off, washed with acetic ester. The filtrate was dried by anhydrous sodium sulphate. The solvent was removed to afford the crude product an purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 20:1→10:1→5:1) to give 2-methyl-2-(2-methyl-1H-indol-1-yl)propan-1-ol (780 mg, 79%) as a light green oil. LCMS (M+H+) m/z: calcd. 202.14. found 202.9.

reactant | ethyl 2-methyl-2-(2-methyl-1H-indol-1-yl)propanoate | 4.9 mmol, 1.2 g | CC(C(=O)OCC)(C)N1C(=CC2=CC=CC=C12)C | C15H19NO2
reactant | lithium aluminum hydride | 24.5 mmol, 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-methyl-2-(2-methyl-1H-indol-1-yl)propan-1-ol | 780 mg, 79% | CC(CO)(C)N1C(=CC2=CC=CC=C12)C | C13H17NO
